US05382585
20.0 g of 6-ethyl-8-nitrotetrazolo[1,5-c]pyrimidine-5,7(1H,6H)-dione are heated at 120° C. for 7 hours with 200 ml of glacial acetic acid in 2000 ml of xylene. A small undissolved portion is filtered off, the filtrate is concentrated in vacuo and the oily residue is made to crystallise by trituration with methylene chloride. 13.5 g (77%) of 6-ethyl-[1,2,5]oxadiazolo[3,4-d]pyrimidine-5,7(4H,6H)-dione-1-oxide are obtained.

reactant | 6-ethyl-8-nitrotetrazolo[1,5-c]pyrimidine-5,7(1H,6H)-dione | 20.0 g | C(C)N1C(N2C(=C(C1=O)[N+](=O)[O-])NN=N2)=O | C6H6N6O4
reactant | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
solvent | xylene | 2000 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 6-ethyl-[1,2,5]oxadiazolo[3,4-d]pyrimidine-5,7(4H,6H)-dione-1-oxide | 13.5 g, 77% | C(C)N1C(NC=2C(C1=O)=[N+](ON2)[O-])=O | C6H6N4O4
